US06255494B1
Preparation of 4-(prop-2-enyl)-2-[(4-chlorophenoxy)methyl]-1-trifluoromethanesulfonylbenzimidazole
In a 250 ml single neck round bottom flask, under a nitrogen atmosphere, were added 4-trifluoromethanesulfonyloxy-2-[(4-chlorophenoxy)methyl]-1-trifluoromethanesulfonylbenzimidazole (4.97 g, 9.22 mmol), lithium chloride (1.17 g, 27.65 mmol), allyltributyltin (4.27 g, 12.90 mmol), and bis(triphenylphosphine)palladium(II) chloride (301.03 mg, 0.369 mmol) in anhydrous tetrahydrofuran (99 ml). The resulting mixture was stirred for five hours at reflux, followed by the addition of an additional 0.15 mg of the palladium catalyst. The contents were then stirred overnight. The progress of the reaction was monitored by thin layer chromatography. The desired title product was further purified by flash chromatography.

reactant | 4-trifluoromethanesulfonyloxy-2-[(4-chlorophenoxy)methyl]-1-trifluoromethanesulfonylbenzimidazole | 9.22 mmol, 4.97 g | FC(S(=O)(=O)OC1=CC=CC=2N(C(=NC21)COC2=CC=C(C=C2)Cl)S(=O)(=O)C(F)(F)F)(F)F | C16H9ClF6N2O6S2
reactant | lithium chloride | 27.65 mmol, 1.17 g | [Cl-].[Li+]
reactant | allyltributyltin | 12.90 mmol, 4.27 g | C(C=C)[Sn](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 99 ml | O1CCCC1 | C4H8O
catalyst | palladium | 0.15 mg | [Pd] | Pd
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.369 mmol, 301.03 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(prop-2-enyl)-2-[(4-chlorophenoxy)methyl]-1-trifluoromethanesulfonylbenzimidazole | C(C=C)C1=CC=CC=2N(C(=NC21)COC2=CC=C(C=C2)Cl)S(=O)(=O)C(F)(F)F | C18H14ClF3N2O3S
